* D:\Download\Vegapod\Vegapod 24\LtSpice17\BMS_Using_Differential_Amp_Balance_Circuit.asc
V1 N002 N003 3.7 Rser=1m
V2 N003 N008 3.7 Rser=1m
V3 N008 N010 3.7 Rser=1m
V4 N010 N011 3.7 Rser=1m
V5 N011 N012 3.7 Rser=1m
V6 N012 0 3.7 Rser=1m
R1 N009 0 1k
Q1 NC_01 N004 N007 0 NPN
R3 N004 N005 2.2k
D1 N007 N004 1N4148
XU1 N009 N001 NC_02 0 N006 level4 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
D2 N006 N005 D
D3 P001 0 1N4148
D4 N001 P001 1N4148
V7 N009 0 PULSE(0 5 0 0 0 1m 10m)
R2 N002 0 94k
R4 0 N003 47k
R5 0 N008 47k
R6 0 N010 47k
R7 0 N011 47k
R8 0 N012 47k
R9 N002 N012 235k
.model D D
.lib C:\Users\saksh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\saksh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1s
.lib UniversalOpAmp4.lib
.backanno
.end
